US08809552B2
b) rac-4-[3-(2,4-Dichloro-benzylcarbamoyl)-3,6-diaza-bicyclo[3.2.0]hept-6-yl]-benzoic acid
To a solution of rac-4-[3-(2,4-Dichloro-benzylcarbamoyl)-3,6-diaza-bicyclo[3.2.0]hept-6-yl]-benzoic acid ethyl ester (55 mg, 123 μmol) in methanol (2 mL) and tetrahydrofuran (2 mL) was added aqueous sodium hydroxide (1 M, 2 mL) and the reaction mixture was heated to 60° C. for 1 h. The solvents were partly removed by concentration in vacuo, tetrahydrofuran (2 mL) was added and filtration afforded the title compound (30 mg, 58%) as a white solid. MS (EI) m/e: 420.2 (M+H)+.

reactant | rac-4-[3-(2,4-Dichloro-benzylcarbamoyl)-3,6-diaza-bicyclo[3.2.0]hept-6-yl]-benzoic acid ethyl ester | 123 μmol, 55 mg | C(C)OC(C1=CC=C(C=C1)N1C2CN(CC2C1)C(NCC1=C(C=C(C=C1)Cl)Cl)=O)=O | C22H23Cl2N3O3
reactant | sodium hydroxide | 1 M, 2 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | rac-4-[3-(2,4-Dichloro-benzylcarbamoyl)-3,6-diaza-bicyclo[3.2.0]hept-6-yl]-benzoic acid | 30 mg, 58% | ClC1=C(CNC(=O)N2CC3CN(C3C2)C2=CC=C(C(=O)O)C=C2)C=CC(=C1)Cl | C20H19Cl2N3O3
